US05006570
Step II - Preparation of 6-Methylsulphamoylchroman-8-carboxylic acid-Intermediate (E)
207 g of a 40% aqueous solution of methylamine were introduced into a 1-liter round-bottomed flask and 123 g of finely ground 6-chlorosulphonylchroman-8-carboxylic acid were then added in portions, while maintaining the temperature between 0° C. and 5° C., by cooling.

reactant | methylamine | CN | CH5N
reactant | 6-chlorosulphonylchroman-8-carboxylic acid | ClS(=O)(=O)C=1C=C2CCCOC2=C(C1)C(=O)O | C10H9ClO5S
product | 6-Methylsulphamoylchroman-8-carboxylic acid | CNS(=O)(=O)C=1C=C2CCCOC2=C(C1)C(=O)O | C11H13NO5S
